US07842713B2
Preparation of Intermediate 376f: Methyl 2-methyl-7-(4-(methylsulfonyl)phenoxy)-3-oxoisoindoline-5-carboxylate
A sealed tube was charged with a solution of dimethyl 4-formyl-5-(4-(methylsulfonyl)phenoxy)-isophthalate (210 mg, 0.535 mmol) in MeOH and aminomethane hydrochloride (72.3 mg, 1.07 mmol). After stirring the reaction at room temperature for 2 hours, NaCNBH3 (84.1 mg, 1.34 mmol) was added. The mixture was then stirred at 65° C. for 14 hours. The solvent was evaporated and replaced with ethyl acetate. The organic layer was then washed with brine (3×), dried over MgSO4, and concentrated. The crude sample was introduced into a silica gel column chromatography and eluted with 5-10% MeOH/CHCl3 to provide the desired product (100 mg, 50% yield) as white solid. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 3.09 (s, 3 H) 3.21 (s, 3 H) 3.94 (s, 3 H) 4.36 (s, 2 H) 7.07-7.21 (m, 2 H) 7.84 (d, J=1.13 Hz, 1 H) 7.90-8.03 (m, 2 H) 8.37 (d, J=1.13 Hz, 1 H); LC-MS (ESI)+m/z=376.00 (M+H)+.

reactant | dimethyl 4-formyl-5-(4-(methylsulfonyl)phenoxy)-isophthalate | 0.535 mmol, 210 mg | C(=O)C1=C(C=C(C(=O)OC)C=C1OC1=CC=C(C=C1)S(=O)(=O)C)C(=O)OC | C18H16O8S
reactant | aminomethane hydrochloride | 1.07 mmol, 72.3 mg | Cl.NC
reactant | NaCNBH3 | 1.34 mmol, 84.1 mg | [BH3-]C#N.[Na+]
solvent | MeOH | CO | CH4O
product | Methyl 2-methyl-7-(4-(methylsulfonyl)phenoxy)-3-oxoisoindoline-5-carboxylate | 100 mg, 50% yield | CN1CC2=C(C=C(C=C2C1=O)C(=O)OC)OC1=CC=C(C=C1)S(=O)(=O)C | C18H17NO6S
